US05410054
Step 2: 3-Carbomethoxy-6-methoxy-1-phenylisoquinoline
A mixture of 3-carbomethoxy-6-methoxy-1-phenyl-3,4-dihydro-isoquinoline (257 mg) and DDQ (217 mg) in benzene (35 mL) was heated at reflux for 1 hr. the mixture was cooled to r.t., filtered through celite washing with toluene and the filtrate was concentrated. Flash chromatography of the residue (silica gel; toluene/EtOAc (85:15)) provided the title compound as a solid.

reactant | 3-carbomethoxy-6-methoxy-1-phenyl-3,4-dihydro-isoquinoline | 257 mg | C(=O)(OC)C1N=C(C2=CC=C(C=C2C1)OC)C1=CC=CC=C1 | C18H17NO3
reactant | DDQ | 217 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | benzene | 35 mL | C1=CC=CC=C1 | C6H6
product | 3-Carbomethoxy-6-methoxy-1-phenylisoquinoline | C(=O)(OC)C=1N=C(C2=CC=C(C=C2C1)OC)C1=CC=CC=C1 | C18H15NO3
